US06342765B1
Cyclopentyl (2S)-2-{5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfanylbutyrate
The title compound was prepared in 72% yield from 5-(1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy)-2-(4-fluorophenethyl)benzoic acid and cyclopentyl (2S)-2-amino-4-(methylsulfanyl)butanoate (L-methionine cyclopentyl ester) by a similar method to that used for Example 34.

reactant | 5-(1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy)-2-(4-fluorophenethyl)benzoic acid | FC1=CC=C(C=C1)C(CN1C=NC=C1)OC=1C=CC(=C(C(=O)O)C1)CCC1=CC=C(C=C1)F | C26H22F2N2O3
reactant | cyclopentyl (2S)-2-amino-4-(methylsulfanyl)butanoate | N[C@H](C(=O)OC1CCCC1)CCSC | C10H19NO2S
product | Cyclopentyl (2S)-2-{5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfanylbutyrate | 72% yield | FC1=CC=C(C=C1)C(CN1C=NC=C1)OC=1C=CC(=C(C(=O)N[C@H](C(=O)OC2CCCC2)CCSC)C1)CCC1=CC=C(C=C1)F | C36H39F2N3O4S
